US08044069B2
(4aS,7aS)-tert-butyl 6-benzyloctahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate
To a solution of (4aS,7aS)-6-benzyloctahydro-1H-pyrrolo[3,4-b]pyridine dihydrochloride (CAS 151213-39-7) in methylene chloride was added di-tert-butyl dicarbonate and triethylamine. The reaction mixture was stirred at room temperature overnight, and then it was washed with saturated sodium bicarbonate solution. The organic layer was separated and dried over MgSO4, concentrated, and then chromatographed on silica gel eluting with 30% ethyl acetate/hexane to give the title compound.

reactant | (4aS,7aS)-6-benzyloctahydro-1H-pyrrolo[3,4-b]pyridine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1C[C@H]2NCCC[C@H]2C1
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (4aS,7aS)-tert-butyl 6-benzyloctahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate | C(C1=CC=CC=C1)N1C[C@H]2N(CCC[C@H]2C1)C(=O)OC(C)(C)C | C19H28N2O2
